US07541372B2
2-(5-Ethyl-3-phenyl-isoxazol-4-yl)-5-(4-fluoro-2-methoxy-phenyl)-[1,3,4]oxadiazole
To a solution of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (1.00 g, 2.85 mmol) in DMF (10 mL) was added potassium hexamethyldisilazane (0.91 M in tetrahydrofuran, 3.44 mL, 3.13 mmol) at ambient temperature and the resulting mixture was stirred for 1 h. After addition of iodomethane (0.20 mL, 3.13 mmol) the reaction mixture was stirred for 20 h at this temperature. Further potassium hexamethyldisilazane (0.91 M in tetrahydrofuran, 3.44 mL, 3.13 mmol) and iodomethane (0.20 mL, 3.13 mmol) were added and stirring was continued for another 1.5 h. The reaction mixture was poured onto aqueous ammonium chloride (saturated, 50 mL) and was extracted with ethyl acetate. Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 0:80:20) afforded the title compound (14 mg, 1%) as a white solid. MS: m/e=366.1 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 2.85 mmol, 1.00 g | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | potassium hexamethyldisilazane | 3.13 mmol, 0.91 M, 3.44 mL | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | iodomethane | 3.13 mmol, 0.20 mL | IC | CH3I
reactant | potassium hexamethyldisilazane | 3.13 mmol, 0.91 M, 3.44 mL | C[Si](N[Si](C)(C)C)(C)C.[K]
reactant | iodomethane | 3.13 mmol, 0.20 mL | IC | CH3I
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(5-Ethyl-3-phenyl-isoxazol-4-yl)-5-(4-fluoro-2-methoxy-phenyl)-[1,3,4]oxadiazole | 14 mg, 1% | C(C)C1=C(C(=NO1)C1=CC=CC=C1)C=1OC(=NN1)C1=C(C=C(C=C1)F)OC | C20H16FN3O3
